US08211908B2
To a suspension of 0.10 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride and 61 mg of 3,4-dihydro-2H-pyrano(2,3-c)pyridine-6-carbaldehyde in 2.5 mL of methanol, 62 mg of sodium cyanoborohydride, 0.14 g of a 28% sodium methoxide/methanol solution and 86 μL of acetic acid were added, and the mixture was stirred at room temperature for 1 hour 50 minutes. Thereto were added ethyl acetate, a saturated aqueous sodium hydrogen carbonate solution, and a 2 mol/L aqueous sodium hydroxide solution, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate twice. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using an eluent of chloroform:methanol=10:1. The resultant residue was dissolved in 1 mL of methanol and 1 mL of and ethyl acetate, and thereto was added 0.5 mL of a 4 mol/L hydrogen chloride/ethyl acetate solution at room temperature. The solvent was distilled off under reduced pressure, diethyl ether was added the resultant residue, and the solid was filtered off to obtain 0.11 g of 1-(2-(4-((3,4-dihydro-2H-pyrano(2,3-c)pyridin-6-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride as a light yellow solid.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride | 0.10 g | Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)F)=O
reactant | 3,4-dihydro-2H-pyrano(2,3-c)pyridine-6-carbaldehyde | 61 mg | O1CCCC=2C1=CN=C(C2)C=O | C9H9NO2
reactant | sodium cyanoborohydride | 62 mg | C(#N)[BH3-].[Na+]
reactant | sodium methoxide methanol | C[O-].[Na+].CO
solvent | methanol | 2.5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 86 μL | C(C)(=O)O | C2H4O2
product | 1-(2-(4-((3,4-dihydro-2H-pyrano(2,3-c)pyridin-6-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride | 0.11 g | Cl.O1CCCC=2C1=CN=C(C2)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | InChI=1S/C24H28FN5O2.ClH/c25-18-13-22-21(28-14-18)3-4-24(31)30(22)10-9-29-7-5-19(6-8-29)26-15-20-12-17-2-1-11-32-23(17)16-27-20;/h3-4,12-14,16,19,26H,1-2,5-11,15H2;1H
